US07326791B2
(c) methyl 4-(pyrrolidin-1-ylcarbonyl)-3-(2-trimethylsilylethynyl)benzoate
18 g (57.7 mmol) of methyl 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoate is placed under a nitrogen atmosphere together with 6.66 g (5.77 mmol) of tetrakis-triphenylphosphinepalladium(0) and 0.439 g (2.31 mmol) of copper(1) iodide in 150 mL of N,N-diisopropylamine, the mixture is heated to 80° C. and 16.6 mL (115 mmol) trimethylsilylethyne is added. The reaction mixture is stirred for 8 hours at 80° C. and then for 16 hours at ambient temperature. Then volatile constituents are eliminated in vacuo, the residue is taken up in ethyl acetate, insoluble matter is filtered off, and the solvent is eliminated in vacuo. The residue is purified by chromatography on silica gel (gradient: dichloromethane/ethanol 100:0□95:5). Yield: 7.7 g (41%); Rf value: 0.44 (silica gel; dichloromethane/ethanol=95:5); C18H23NO3Si (329.48); mass spectrum: (M+H)+=330.

reactant | methyl 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoate | 57.7 mmol, 18 g | BrC=1C=C(C(=O)OC)C=CC1C(=O)N1CCCC1 | C13H14BrNO3
reactant | trimethylsilylethyne | 115 mmol, 16.6 mL | C[Si](C)(C)C#C | C5H10Si
solvent | N,N-diisopropylamine | 150 mL | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(1) iodide | 2.31 mmol, 0.439 g | [Cu]I
product | methyl 4-(pyrrolidin-1-ylcarbonyl)-3-(2-trimethylsilylethynyl)benzoate | N1(CCCC1)C(=O)C1=C(C=C(C(=O)OC)C=C1)C#C[Si](C)(C)C | C18H23NO3Si
